US08445499B2
Step 2: Preparation of tert-butyl 1′-[6-(benzyloxy)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate
The tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate (100 mg, 0.26 mmol), phenylmethanol (0.031 mL, 0.29 mmol) were added to DMF (2.6 mL), and then sodium hydride (7 mg, 0.29 mmol) was added to the mixture. The reaction was heated to 30° C. for 30 min. The reaction crude was cooled down to r.t. and quenched with ice ammonia chloride solution (10 mL) and extracted with ethyl acetate (10 mL). The organic phase was washed with brine (10 mL, ×1), dried over magnesium sulfate, filtered and concentrated by rotavapor. The crude mixture was purified by preparative TLC with 30% ethylacetate:hexane to yield the title compound.

reactant | tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate | 0.26 mmol, 100 mg | ClC1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H29ClN4O2
reactant | phenylmethanol | 0.29 mmol, 0.031 mL | C1(=CC=CC=C1)CO | C7H8O
reactant | sodium hydride | 0.29 mmol, 7 mg | [H-].[Na+]
solvent | DMF | 2.6 mL | CN(C)C=O | C3H7NO
product | tert-butyl 1′-[6-(benzyloxy)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate | C(C1=CC=CC=C1)OC1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C26H36N4O3
